spice
* SPICE Netlist for the Given Circuit
* Components:
* C1: Capacitor connected to node 4 and ground
* C2: Capacitor connected between nodes 2 and 2
* R1: Resistor connected between nodes 3 and 4
V1 Vin 1 DC 0
V2 Vout 2 DC
R1 3 4 R1_value
C1 4 2 C1_value
? Missing component
.end
